US07259183B2
3.3 g of 2-bromo-4-methyl-1-nitro-benzene (15 mmol) were dissolved in 200 ml THF and the solution was cooled to −65° C. Then 46 ml of a 1 molar solution of vinyl magnesium bromide in THF were added in a way, that the temperature of the reaction mixture stayed below −40° C. After 30 min at −40° C. the reaction was quenched with saturated ammonium chloride solution and was extracted with EtOAc. The combined organic phases were washed with brine and dried with magnesium sulfate. After filtration and evaporation of the solvent the crude product was purified by chromatography (silica gel; cyclohexane/EtOAc 4:1). 1.68 g (52%) of 7-bromo-5-methyl-indole were isolated as brown liquid. 1H NMR (DMSO-d6, 300 MHz): δ 2.36 (s, 3H), 6.45 (m, 1H), 7.14 (s, 1H), 7.34 (m, 2H), 11.16 (br s, 1H).

reactant | 2-bromo-4-methyl-1-nitro-benzene | 15 mmol, 3.3 g | BrC1=C(C=CC(=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | vinyl magnesium bromide | C(=C)[Mg]Br
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 7-bromo-5-methyl-indole | 1.68 g, 52% | BrC=1C=C(C=C2C=CNC12)C | C9H8BrN
